US06689922B1
7-[3-{3,4-bis-Hydroxymethylphenoxymethyl)phenyl]-3-ethyloctan-3-ol
In a manner similar to Example 3(i), by reacting 230 mg (0.36 mmol) of 7-{3-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]phenyl}-3-ethyloctan-3-ol with 1.2 ml of tetrabutylammonium fluoride, a colourless oil (m=110 mg; Y=75%) is obtained.

reactant | 7-{3-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]phenyl}-3-ethyloctan-3-ol | 0.36 mmol, 230 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC=2C=C(C=CC2)C(CCCC(CC)(O)CC)C)C=CC1CO[Si](C)(C)C(C)(C)C | C37H64O4Si2
reactant | tetrabutylammonium fluoride | 1.2 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 7-[3-{3,4-bis-Hydroxymethylphenoxymethyl)phenyl]-3-ethyloctan-3-ol | OCC=1C=C(OCC=2C=C(C=CC2)C(CCCC(CC)(O)CC)C)C=CC1CO | C25H36O4
